US04172834
3-(Isobutylamino)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole 3-(Acetamido)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole
A solution of 15.5 g. of 4-acetamidocyclohexanone, 18 g. of 2,4-difluorophenylhydrazine hydrochloride and 10 g. of methanesulfonic acid in 200 ml. of absolute ethyl alcohol was heated under reflux for two hours, cooled, filtered, and the filtrate was evaporated to dryness under reduced pressure. The residual oil was triturated with water and the resulting solid was collected by filtration, triturated with ether, and recrystallized by dissolving in methanol, adding toluene, and evaporating the methanol to give 8.5 g. of 3-(acetamido)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole, m.p. 179°-183° C.

reactant | 4-acetamidocyclohexanone | C(C)(=O)NC1CCC(CC1)=O | C8H13NO2
reactant | 2,4-difluorophenylhydrazine hydrochloride | Cl.FC1=C(C=CC(=C1)F)NN
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | 3-(acetamido)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole | C(C)(=O)NC1CCC=2NC3=C(C=C(C=C3C2C1)F)F | C14H14F2N2O
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-(Isobutylamino)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole 3-(Acetamido)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole | C(C)(=O)NC1CCC=2NC3=C(C=C(C=C3C2C1)F)F.C(C(C)C)NC1CCC=2NC3=C(C=C(C=C3C2C1)F)F | InChI=1S/C16H20F2N2.C14H14F2N2O/c1-9(2)8-19-11-3-4-15-12(7-11)13-5-10(17)6-14(18)16(13)20-15;1-7(19)17-9-2-3-13-10(6-9)11-4-8(15)5-12(16)14(11)18-13/h5-6,9,11,19-20H,3-4,7-8H2,1-2H3;4-5,9,18H,2-3,6H2,1H3,(H,17,19)
